US06239074B1
3-[4-Chloro-3-dimethoxymethylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 2.22)
170 ml of trimethyl orthoformate were added to a thoroughly stirred suspension of 136 g of montmorillonite K10 in 700 ml of anhydrous toluene, and stirring was carried out for 30 minutes. Thereafter, 68.0 g of 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine were added dropwise while cooling with ice, and the batch was stirred overnight at 25° C. The montmorillonite K10 was filtered off and washed thoroughly with toluene. The solvent, excess ortho-ester and methyl formate were distilled off under reduced pressure from the combined filtrates. The remaining oil was crystallized with petroleum ether.

reactant | trimethyl orthoformate | 170 ml | C(OC)(OC)OC | C4H10O3
reactant | montmorillonite K10 | 136 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 68.0 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-Chloro-3-dimethoxymethylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(OC)OC | C15H14ClF3N2O4
